US06610700B2
2-Benzyl-1,3-cyclopentanedione
To a suspension of 1,3-cyclopentanedione (500 mg, 5.10 mmol) and anhydrous lithium iodide (750 mg, 5.61 mmol) in acetonitrile (10 ml) was added DBU. After 30 min benzyl bromide (1.74 g, 10.2 mmol) was added and the reaction heated for 24 h at reflux. The reaction was poured into water (40 ml ), extracted with EtOAc (4×50 ml), dried (MgSO4), the solution concentrated in vacuo and the residue purified by chromatography (SiO2; EtOAc) to give the title compound as an off white solid (222 mg, 23%). δH (CD3OD) 7.20 (4H, d), 7.10 (1H, m), 3.41 (2H, s), 2.52 (4H, s). m/z (ESI, 70V) 189 (MH+).

reactant | 1,3-cyclopentanedione | 5.10 mmol, 500 mg | C1(CC(CC1)=O)=O | C5H6O2
reactant | lithium iodide | 5.61 mmol, 750 mg | [I-].[Li+]
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzyl bromide | 10.2 mmol, 1.74 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 40 ml | O | H2O
product | 2-Benzyl-1,3-cyclopentanedione | C(C1=CC=CC=C1)C1C(CCC1=O)=O | C12H12O2
